US08076374B2
Step B. 3-{4-[1-Allyl-1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoylamino}-propionic acid methyl ester
To a mixture of 4-[1-allyl-1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoic acid (0.349 g, 0.705 mmol), 3-amino-propionic acid methyl ester hydrochloride (0.112 g, 0.804 mmol), and 1-hydroxybenzotriazole hydrate (HOBt, 0.121 g, 0.898 mmol) in DMF (7.0 mL) is added N,N-diisopropylethylamine (0.38 mL, 2.2 mmol), then N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDCI, 0.180 g, 0.938 mmol) and stirred overnight. The reaction mixture is poured into water (25 mL) and extracted with EtOAc (3×25 mL). The combined organic extracts are washed with water, brine, dried over MgSO4, filtered, and concentrated. The residue is loaded onto silica gel and eluted using hexanes with an ethyl acetate gradient from 0% to 75% to provide 0.296 g (72%) of the title compound as a white foam. MS (ES): 580.4 [M+H]+.

reactant | 4-[1-allyl-1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoic acid | 0.705 mmol, 0.349 g | C(C=C)C(CC=C)(COC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C)C1=CC=C(C(=O)O)C=C1 | C30H29F3O3
reactant | 3-amino-propionic acid methyl ester hydrochloride | 0.804 mmol, 0.112 g | Cl.COC(CCN)=O
reactant | 1-hydroxybenzotriazole hydrate | 0.898 mmol, 0.121 g | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 2.2 mmol, 0.38 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.938 mmol, 0.180 g | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 7.0 mL | CN(C)C=O | C3H7NO
solvent | water | 25 mL | O | H2O
product | 3-{4-[1-Allyl-1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoylamino}-propionic acid methyl ester | 0.296 g, 72% | COC(CCNC(C1=CC=C(C=C1)C(CC=C)(COC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C)CC=C)=O)=O | C34H36F3NO4
